US07074817B2
A solution of 6-bromoindole (5.0 g, 26 mmol) in dry DMF (45 mL) was cooled in an ice bath. Sodium hydride (2.2 g of 60% dispersion in oil, 55 mmol) was added. After stirring for 30 minutes under nitrogen at room temperature, the reaction mixture was cooled in an ice bath, and benzyl bromide (6.1 mL, 51 mmol) was added. After stirring for one hour at room temperature, the reaction mixture was poured into excess water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic phase was then washed with water and brine, then dried over anhydrous magnesium sulfate and evaporated to dryness. Purification of the residue by flash chromatography using hexane as an eluant and drying for 30 minutes at 60° C. yielded 1-benzyl-6-bromo-1H-indole (5.83 g, 80%) as a waxy solid, mp: 85-88° C. Mass spectrum (+ESI, [M+H]+) m/z 286; 1HNMR (500 MHz, DMSO-d6): δ 7.7 (d, 1H, J=0.61 Hz), 7.50-7.55 (m, 2H), 7.30 (t, 2H, J=7.3 Hz), 7.2-7.25 (m, 1H), 7.2 (d, 2H, J=8.4 Hz), 7.15 (dd, 1H, J=8.4 Hz and 1.7 Hz), 6.5 (dd, 1H, J=3.1 Hz and 0.77 Hz), and 5.45 ppm (s, 2H).

reactant | 6-bromoindole | 26 mmol, 5.0 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | Sodium hydride | 55 mmol, 2.2 g | [H-].[Na+]
reactant | benzyl bromide | 51 mmol, 6.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-benzyl-6-bromo-1H-indole | 5.83 g, 80% | C(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)Br | C15H12BrN
